US06713650B2
To a solution of N-cyclohexylaniline (0.1 ml, 0.57 mmol) in acetonitrile (4 ml) was added a catalytic amount of 4-(dimethylamino)pyridine (5 mg, 0.04 mmol). To this mixture was added benzyl isothiocyanate (0.11 ml, 0.83 mmol) dropwise, and the mixture was stirred at room temperature for 16 hours. The solvent was removed under reduced pressure, and the residue purified on preparative silica gel plates, developing with 20% ethyl acetate/hexanes, to furnish (cyclohexylphenylamino)-N-benzylthiocarboxamide as a white solid, (M+1)=324.8.

reactant | N-cyclohexylaniline | 0.57 mmol, 0.1 ml | C1(CCCCC1)NC1=CC=CC=C1 | C12H17N
reactant | benzyl isothiocyanate | 0.83 mmol, 0.11 ml | C(C1=CC=CC=C1)N=C=S | C8H7NS
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
catalyst | 4-(dimethylamino)pyridine | 0.04 mmol, 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (cyclohexylphenylamino)-N-benzylthiocarboxamide | C1(CCCCC1)N(C1=CC=CC=C1)C(=S)NCC1=CC=CC=C1 | C20H24N2S
